US06740662B1
To a diethyl ether suspension of magnesium was added dropwise 2-bromothiophene at room temperature, and the whole was reacted. After cooling to 0° C., the reaction mixture was added with 2-chloro-6-methylnicotinic acid and, after being warmed to room temperature, the whole was stirred for 12 hours. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain 2-chloro-6-methyl-3-(thiophene-2-carbonyl)pyridine. NMR1: 7.79 (1H, dd, J=5.0, 1.1 Hz), 7.78 (1H, d, J=7.7 Hz), 2.63 (3H, s).

reactant | magnesium | [Mg] | Mg
reactant | 2-bromothiophene | BrC=1SC=CC1 | C4H3BrS
reactant | 2-chloro-6-methylnicotinic acid | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-chloro-6-methyl-3-(thiophene-2-carbonyl)pyridine | ClC1=NC(=CC=C1C(=O)C=1SC=CC1)C | C11H8ClNOS
